US04418068
6-methoxy-2-(4-methoxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride
A 3 g. portion of 4-(2-piperidinoethoxy)-benzoic acid, hydrochloride, was combined with 20 ml. of 1,2-dichloroethane and 2 drops of dimethylformamide at -20° C., and 4 ml. of phosgene was added. The mixture was stirred for 90 minutes while the temperature was slowly raised to reflux, and then for 30 minutes at reflux. An additional 80 ml. of 1,2-dichloroethane was added, and then 2.7 g. of 6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene. An 8.68 g. portion of aluminum chloride was added, and the mixture was stirred for 3 hours. An additional 2.66 g. of aluminum chloride was added, and the mixture was stirred for 16 hours more. The mixture was poured into a large amount of 1/1 dichloromethane/dilute aqueous hydrochloric acid. Additional dichloromethane containing a little methanol was added until distinct layers separated. The water layer was extracted several times with dichloromethane containing a little methanol, and the organic layers were combined and washed with water and with aqueous sodium chloride. The organic layer was then filtered and evaporated to an oil, which was dissolved in dichloromethane and a little methanol, and extracted with about 20 ml. of 5% aqueous sodium hydroxide, and then with water, aqueous ammonium chloride and water. The organic layer was then evaporated to about 4 g. of oil, which was dissolved in acetone. Diethyl ether was added, and impurities precipitated and were filtered out. The filtrate was evaporated to about 3.4 g. of foam, which was purified by preparative high-pressure liquid phase chromatography on silica gel, eluting with 1.5% methanol in chloroform. The product-containing fractions were combined and evaporated to obtain the desired product as 1.88 g. of yellow oil; m/e 501.198 by electron impact high resolution mass spectrometry; absorption maximum at 1650 on the infrared spectrum in chloroform; λmax (ε): 296 (32,500) on the ultraviolet spectrum in ethanol.

reactant | 4-(2-piperidinoethoxy)-benzoic acid, hydrochloride | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene | COC=1C=CC2=C(SC(=C2)C2=CC=C(C=C2)OC)C1 | C16H14O2S
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 6-methoxy-2-(4-methoxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride | Cl.COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)OC)C1 | InChI=1S/C30H31NO4S.ClH/c1-33-23-10-8-22(9-11-23)30-28(26-15-14-25(34-2)20-27(26)36-30)29(32)21-6-12-24(13-7-21)35-19-18-31-16-4-3-5-17-31;/h6-15,20H,3-5,16-19H2,1-2H3;1H
